US07223776B2
42.d) 4-(6-Methoxy-quinazolin-4-yloxymethyl)-cyclohexylamine
20% Pd(OH)2 on carbon (1 g) was added to a solution of benzyl-[4-(6-methoxy-quinazolin-4-yloxymethyl)-cyclohexyl]-amine (2 g, 5.3 mmol) in MeOH (30 ml) and hydrogenation was carried out under a hydrogen atmosphere (1 bar) at 65° C. The reaction mixture was filtered and the filtrate was concentrated.

reactant | benzyl-[4-(6-methoxy-quinazolin-4-yloxymethyl)-cyclohexyl]-amine | 5.3 mmol, 2 g | C(C1=CC=CC=C1)NC1CCC(CC1)COC1=NC=NC2=CC=C(C=C12)OC | C23H27N3O2
solvent | MeOH | 30 ml | CO | CH4O
catalyst | Pd(OH)2 on carbon | 1 g | [OH-].[OH-].[Pd+2]
product | 4-(6-Methoxy-quinazolin-4-yloxymethyl)-cyclohexylamine | COC=1C=C2C(=NC=NC2=CC1)OCC1CCC(CC1)N | C16H21N3O2
